US06472412B1
Cyclopentyl bromide (0.78 mL) is added to a stirred mixture of methyl 5-hydroxy-6-methylthionicotinoate (810 mg) and anhydrous potassium carbonate (1.8 g) in dry dimethylformamide (15 mL). The mixture is heated at 60±5° C. for 8 hours. After cooling the mixture is concentrated in vacuo and the residue partitioned between water and ethyl acetate. The ethyl acetate phase is isolated, washed with water and dried (MgSO4). The solvent is removed in vacuo to give methyl 5-cyclopentyloxy-6-methylthionicotinoate (920 mg) as a light brown oil. [Elemental analysis: C, 58.41; H, 6.41; N, 5.24%. calculated: C, 58.2; H, 6.44; N, 5.33%.].

reactant | Cyclopentyl bromide | 0.78 mL | C1(CCCC1)Br | C5H9Br
reactant | methyl 5-hydroxy-6-methylthionicotinoate | 810 mg | OC=1C(=NC=C(C(=S)OC)C1)C | C8H9NO2S
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 5-cyclopentyloxy-6-methylthionicotinoate | 920 mg | C1(CCCC1)OC=1C(=NC=C(C(=S)OC)C1)C | C13H17NO2S
